US06949542B2
4-[3-(3-Methyl-[1,2,4]triazin-6-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J3) (83 mg, 0.3 mmol) and 3-[3-(3-methyl-[1,2,4]triazin-6-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K46) (113 mg, 0.36 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (18 mg).

reactant | (2-amino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.3 mmol, 83 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)N)=O | C12H15F3N2O2
reactant | 3-[3-(3-methyl-[1,2,4]triazin-6-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.36 mmol, 113 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CN=C(N=N1)C)=O | C17H19N3O3
product | 4-[3-(3-Methyl-[1,2,4]triazin-6-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC=1N=NC(=CN1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C(F)(F)F | C20H14F3N5O
